US07750194B2
In addition, the esterification of olefins with carboxylic acids and subsequent ester hydrolysis of the alkyl esters formed to the corresponding alcohol with recovery of the acid is known. For instance, U.S. Pat. No. 4,384,148 describes the reaction of ethene with acetic acid to give ethyl acetate in an autoclave. The subsequent hydrolysis of the ethyl acetate removed by distillation with water in a molar ratio of 1:5 in an autoclave affords a mixture comprising ethyl acetate, ethanol and diethyl ether. GB 2 238 539 discloses the two-stage hydration of 1-butene by reaction with trifluoroacetic acid to give 2-butyl trifluoroacetate in the presence of a highly acidic ion exchange resin and subsequent hydrolysis of the ester to give 2-butanol.

reactant | ethene | C=C | C2H4
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | 1-butene | C=CCC | C4H8
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-butyl trifluoroacetate | FC(C(=O)OC(C)CC)(F)F | C6H9F3O2
